US09126969B2
350 mg of N1-{6-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-3H-benzimidazol-5-yl}-N2,N2-dimethylethane-1,2-diamine in 15 mL of methanol and 40 mg of palladium-on-charcoal are hydrogenated under 1 bar of hydrogen pressure at 22° C. for 16 hours. The reaction medium is filtered through celite and the filtrate is concentrated under reduced pressure in a rotary evaporator. 300 mg of N1-{2-[4-amino-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-6-fluoro-3H-benzimidazol-5-yl}-N2,N2-dimethylethane-1,2-diamine are obtained. The compound is used as it is for the subsequent stage.

reactant | N1-{6-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-3H-benzimidazol-5-yl}-N2,N2-dimethylethane-1,2-diamine | 350 mg | FC=1C(=CC2=C(N=C(N2)C2=NN(C=C2[N+](=O)[O-])C2OCCCC2)C1)NCCN(C)C | C19H24FN7O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium-on-charcoal | 40 mg | [Pd] | Pd
product | N1-{2-[4-amino-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-6-fluoro-3H-benzimidazol-5-yl}-N2,N2-dimethylethane-1,2-diamine | 300 mg | NC=1C(=NN(C1)C1OCCCC1)C=1NC2=C(N1)C=C(C(=C2)NCCN(C)C)F | C19H26FN7O
